.title option uppercase comma rc smoke
.OPTION RELTOL=1e-4, ABSTOL=1e-6, ITL1=12
V1 in 0 PULSE(0 1m 1p 0.2p 0.2p 2p 4p)
R1 in out 10
C1 out 0 1p
.tran 0.5p 10p
.end
